### PR TITLE
[Merged by Bors] - chore(HahnSeries): make more usable, golf

### PR DESCRIPTION
**Pull request by YaelDillies**
A lot of lemmas were misnamed or the wrong way around.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries/Basic.lean [hunk 1]
```diff
@@ -236,53 +237,51 @@ theorem orderTop_zero : orderTop (0 : HahnSeries Γ R) = ⊤ :=
...
-    exact ne_zero_iff_orderTop.mp
-  · simp_all only [orderTop_zero, implies_true]
+@[deprecated (since := "2025-08-19")] alias orderTop_of_ne := orderTop_of_ne_zero
+
+@[simp] lemma orderTop_eq_top : orderTop x = ⊤ ↔ x = 0 := by simp [orderTop]
+@[simp] lemma orderTop_lt_top : orderTop x < ⊤ ↔ x ≠ 0 := by simp [lt_top_iff_ne_top]
+lemma orderTop_ne_top : orderTop x ≠ ⊤ ↔ x ≠ 0 := orderTop_eq_top.not
+
+@[deprecated (since := "2025-08-19")] alias orderTop_eq_top_iff := orderTop_eq_top
+@[deprecated (since := "2025-08-19")] alias ne_zero_iff_orderTop := orderTop_ne_top
```
Comment (wwylele) [inline Mathlib/RingTheory/HahnSeries/Basic.lean]: Should this preserve the original order?

```suggestion
@[deprecated (since := "2025-08-19")] alias ne_zero_iff_orderTop := orderTop_ne_top.symm
```

**Review by wwylele — APPROVED** [review]

File: Mathlib/RingTheory/HahnSeries/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/HahnSeries/Basic.lean]: Sadly not valid syntax!

**Review by wwylele — APPROVED** [review]

**Comment by bryangingechen** [comment]
Thanks!
bors r+
